US08633175B2
3-Bromo-5-chlorobenzamide
To a solution of 3-bromo-5-chlorobenzoic acid (2.88 g; 12.2 mmol; Note 1) and pyridine (1.04 mL; 12.8 mmol) in MeCN (100 mL) at room temperature was added (Boc)2O (3.47 g; 15.9 mmol) in one portion. The mixture was aged 30 min, (NH4)2CO3 was added in one portion. After stirring approximately 16 h at room temperature, volatiles were removed in vacuo. The residue was partitioned between EtOAc/water and the layers were separated. The aqueous layer was extracted with EtOAc (×2), combined organics were washed (10% HCl, brine), dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash chromatography (EtOAc/hexanes), affording the title compound as a colorless solid. LC/MS (method A) tR 1.65 min; m/z 234, 236 (M+H, Br isotopes).

reactant | 3-bromo-5-chlorobenzoic acid | 12.2 mmol, 2.88 g | BrC=1C=C(C(=O)O)C=C(C1)Cl | C7H4BrClO2
reactant | pyridine | 12.8 mmol, 1.04 mL | N1=CC=CC=C1 | C5H5N
reactant | (Boc)2O | 15.9 mmol, 3.47 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeCN | 100 mL | CC#N | C2H3N
product | 3-Bromo-5-chlorobenzamide | BrC=1C=C(C(=O)N)C=C(C1)Cl | C7H5BrClNO
